US07005444B2
4-{5-[(2-Oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-2H-pyrazol-3-yl}-benzoic acid methyl ester
The named compound is prepared by substituting 4-(5-amino-2H-pyrazol-3-yl)-benzoic acid methyl ester for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.2847 gms. of 4-(5-amino-2H-pyrazol-3-yl)-benzoic acid methyl ester by refluxing in tetrahydrofuran (2.5 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 4-(5-amino-2H-pyrazol-3-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1NN=C(C1)N)=O | C11H11N3O2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 4-{5-[(2-Oxo-1,2-dihydro-indol-3-ylidenemethyl)-amino]-2H-pyrazol-3-yl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1NN=C(C1)NC=C1C(NC2=CC=CC=C12)=O)=O | C20H16N4O3
